US05034391
4.00 g (0.00985 mol) of 6-chloro-3-methoxy-4-((4-(4-(2-methoxyphenyl)-1-piperazinyl)butyl)amino)-pyridazine are dissolved in 40 ml of glacial acetic acid, and 40 ml of 63% strength HBr are added. The mixture is refluxed for 2 hours, 200 ml of water are added, 30% strength KOH is added to pH 6, and the precipitated substance is filtered off with suction and thoroughly washed with water. 3.85 g (99.7% of theory) of 6-chloro-4-((4-(4-(2-methoxyphenyl)-1-piperazinyl)butyl)amino)-3(2H)-pyridazinone are obtained, purified by recrystallization from ethanol with addition of charcoal, and immediately added to a solution of ethanolic hydrochloric acid, resulting in 3.26 g (68.7% of theory) of pure dihydrochloride, m.p. 247°-252° C.; C 47.2%, H 6.0%, Cl(tot) 21.9%, Cl- 14.6%, N 14.4%, O 10.0%.

reactant | 6-chloro-3-methoxy-4-((4-(4-(2-methoxyphenyl)-1-piperazinyl)butyl)amino)-pyridazine | 0.00985 mol, 4.00 g | ClC1=CC(=C(N=N1)OC)NCCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C20H28ClN5O2
reactant | HBr | Br | BrH
reactant | water | 200 ml | O | H2O
reactant | KOH | [OH-].[K+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-4-((4-(4-(2-methoxyphenyl)-1-piperazinyl)butyl)amino)-3(2H)-pyridazinone | 3.85 g, 99.7% | ClC=1C=C(C(NN1)=O)NCCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C19H26ClN5O2
